US07737166B2
7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-2-[(E)-2-phenylethenyl]-1,3-benzoxazole-4-carbonitrile (I-93)
7-Fluoro-5-methyl-6-phenyl-2-[(E)-2-phenylethenyl]-1,3-benzoxazole-4-carbonitrile (I-92) (200 mg, 0.56 mmol) was dissolved in dimethylsulfoxide (2 ml), triethylamine (190 μl, 1.35 mmol) and (3S)-3-(dimethylamino)pyrrolidine (86 μl, 0.68 mmol) were added, followed by stirring at 90° C. for 15 hours under nitrogen atmosphere. After cooling to room temperature, ethyl acetate was added, followed by fractionation with water. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate. The solvent was evaporated away and the resulting residue was subjected to silica gel column chromatography, eluted with a mixed solvent of chloroform/methanol (50:1, v/v), recrystallized and purified with n-hexane/ethyl acetate to obtain the entitled compound (163 mg, 65%) as a yellow solid.

reactant | 7-Fluoro-5-methyl-6-phenyl-2-[(E)-2-phenylethenyl]-1,3-benzoxazole-4-carbonitrile | 0.56 mmol, 200 mg | FC=1C(=C(C(=C2N=C(OC21)\C=C\C2=CC=CC=C2)C#N)C)C2=CC=CC=C2 | C23H15FN2O
reactant | triethylamine | 1.35 mmol, 190 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.68 mmol, 86 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-2-[(E)-2-phenylethenyl]-1,3-benzoxazole-4-carbonitrile | 163 mg, 65% | CN([C@@H]1CN(CC1)C=1C(=C(C(=C2N=C(OC21)\C=C\C2=CC=CC=C2)C#N)C)C2=CC=CC=C2)C | C29H28N4O
